US05167690
47.9 g (250 mmol) of 2-chloro-4-fluoro-5-nitrophenol, 34.6 g (250 mmol) of potassium carbonate, 1 g of potassium iodide and 58.5 g (300 mmol) of 3-bromomethyltetrahydrothiopyran in 500 ml of acetonitrile were refluxed for 5 hours. The mixture was cooled to 25° C. and filtered, the solvent was removed from the filtrate, the residue was taken up in methylene chloride, and the solution was washed with water, dried and concentrated. 22 g (29%) of 2-chloro-4-fluoro-5-nitro-1-(3-tetrahydrothiopyranylmethoxy)benzene (melting point 100° to 103° C.) were obtained.

reactant | 2-chloro-4-fluoro-5-nitrophenol | 250 mmol, 47.9 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
reactant | potassium carbonate | 250 mmol, 34.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromomethyltetrahydrothiopyran | 300 mmol, 58.5 g | BrCC1CSCCC1 | C6H11BrS
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
catalyst | potassium iodide | 1 g | [I-].[K+]
product | 2-chloro-4-fluoro-5-nitro-1-(3-tetrahydrothiopyranylmethoxy)benzene | 22 g, 29% | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])OCC1CSCCC1 | C12H13ClFNO3S
